US05182263
A suspension of rac.-2-acetamido-3-[4-[(1,1-dimethyl-ethoxy)carbonyl]phenyl]propanoic acid benzyl ester (3.3 g, 8 mmol) and 10% Pd/C (320 mg) in ethanol (100 mL) was blanketed with hydrogen (1 atm) at room temperature. Upon the consumption of 1 equivalent of hydrogen, the mixture was filtered through celite. The celite pad was washed with ethanol (50 mL) and the filtrates were combined and concentrated. The resultant solid was purified by recrystallization from ethyl acetate/hexane to give rac.-2-acetamido-3-[4-[(1,1-dimethylethoxy)carbonyl]phenyl]propanoic acid, (2.3 g, 7.4 mmol) in 89% yield, mp. 187°-188° C.

reactant | rac.-2-acetamido-3-[4-[(1,1-dimethyl-ethoxy)carbonyl]phenyl]propanoic acid benzyl ester | 8 mmol, 3.3 g | C(C1=CC=CC=C1)OC(C(CC1=CC=C(C=C1)C(=O)OC(C)(C)C)NC(C)=O)=O | C23H27NO5
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 1 equivalent | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 320 mg | [Pd] | Pd
product | rac.-2-acetamido-3-[4-[(1,1-dimethylethoxy)carbonyl]phenyl]propanoic acid | 7.4 mmol, 2.3 g, 89% yield | C(C)(=O)NC(C(=O)O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C16H21NO5
